************************************************************************
* auCdl Netlist:
* 
* Library Name:  PROJLib
* Top Cell Name: CSA_C
* View Name:     schematic
* Netlisted on:  Jan  2 23:38:31 2023
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: PROJLib
* Cell Name:    MUX
* View Name:    schematic
************************************************************************

.SUBCKT MUX GND I0 I1 INVS S VDD VOUT
*.PININFO I0:I I1:I INVS:I S:I VOUT:O GND:B VDD:B
MPM1 I1 INVS VOUT VDD p18 W=440n L=180n m=1
MPM0 I0 S VOUT VDD p18 W=440n L=180n m=1
MNM1 I1 S VOUT GND n18 W=440n L=180n m=1
MNM0 I0 INVS VOUT GND n18 W=440n L=180n m=1
.ENDS

************************************************************************
* Library Name: PROJLib
* Cell Name:    inv
* View Name:    schematic
************************************************************************

.SUBCKT inv GND VDD VI VOUT
*.PININFO VI:I VOUT:O GND:B VDD:B
MPM0 VOUT VI VDD VDD p18 W=880n L=180n m=1
MNM0 VOUT VI GND GND n18 W=440n L=180n m=1
.ENDS

************************************************************************
* Library Name: PROJLib
* Cell Name:    CSA_C
* View Name:    schematic
************************************************************************

.SUBCKT CSA_C A B CI COUT GND INVCI S VDD
*.PININFO A:I B:I CI:I INVCI:I COUT:O S:O GND:B VDD:B
MPM3 net375 A VDD VDD p18 W=880n L=180n m=1
MPM2 net381 net384 VDD VDD p18 W=440n L=180n m=1
MPM1 net384 B VDD VDD p18 W=440n L=180n m=1
MPM0 net384 A VDD VDD p18 W=440n L=180n m=1
MPM4 net381 B net375 VDD p18 W=880n L=180n m=1
MPM8 net382 A VDD VDD p18 W=880n L=180n m=1
MPM7 net382 B VDD VDD p18 W=880n L=180n m=1
MPM9 net379 net378 net382 VDD p18 W=880n L=180n m=1
MPM6 net378 B net377 VDD p18 W=880n L=180n m=1
MPM5 net377 A VDD VDD p18 W=880n L=180n m=1
XI0 GND net374 net373 INVCI CI VDD S / MUX
XI2 GND net371 net372 INVCI CI VDD COUT / MUX
MNM0 net384 A net376 GND n18 W=440n L=180n m=1
MNM4 net381 net384 net380 GND n18 W=440n L=180n m=1
MNM1 net376 B GND GND n18 W=440n L=180n m=1
MNM6 net380 A GND GND n18 W=440n L=180n m=1
MNM5 net380 B GND GND n18 W=440n L=180n m=1
MNM8 net379 B net383 GND n18 W=440n L=180n m=1
MNM3 net378 A GND GND n18 W=220n L=180n m=1
MNM2 net378 B GND GND n18 W=220n L=180n m=1
MNM7 net379 net378 GND GND n18 W=220n L=180n m=1
MNM9 net383 A GND GND n18 W=440n L=180n m=1
XI6 GND VDD net381 net374 / inv
XI5 GND VDD net379 net373 / inv
XI3 GND VDD net384 net371 / inv
XI4 GND VDD net378 net372 / inv
.ENDS

