************************************************************************
* auCdl Netlist:
* 
* Library Name:  PROJLib
* Top Cell Name: DEC_AND
* View Name:     schematic
* Netlisted on:  Jan 15 15:54:50 2023
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: PROJLib
* Cell Name:    AND2_SC
* View Name:    schematic
************************************************************************

.SUBCKT AND2_SC A B GND VDD VOUT
*.PININFO A:I B:I VOUT:O GND:B VDD:B
MPM2 VOUT net15 VDD VDD p18 W=440n L=180n m=1
MPM1 net15 B VDD VDD p18 W=440n L=180n m=1
MPM0 net15 A VDD VDD p18 W=440n L=180n m=1
MNM2 VOUT net15 GND GND n18 W=220n L=180n m=1
MNM1 net25 B GND GND n18 W=440n L=180n m=1
MNM0 net15 A net25 GND n18 W=440n L=180n m=1
.ENDS

************************************************************************
* Library Name: PROJLib
* Cell Name:    DEC_AND
* View Name:    schematic
************************************************************************

.SUBCKT DEC_AND A0 A1 A2 A3 A4 A5 A6 A7 CLK GND O0 O1 O2 O3 O4 O5 O6 O7 VDD
*.PININFO A0:I A1:I A2:I A3:I A4:I A5:I A6:I A7:I CLK:I O0:O O1:O O2:O O3:O 
*.PININFO O4:O O5:O O6:O O7:O GND:B VDD:B
XI8 A4 CLK GND VDD O4 / AND2_SC
XI7 A6 CLK GND VDD O6 / AND2_SC
XI6 A7 CLK GND VDD O7 / AND2_SC
XI5 A5 CLK GND VDD O5 / AND2_SC
XI4 A2 CLK GND VDD O2 / AND2_SC
XI3 A3 CLK GND VDD O3 / AND2_SC
XI1 A1 CLK GND VDD O1 / AND2_SC
XI0 A0 CLK GND VDD O0 / AND2_SC
.ENDS

