************************************************************************
* auCdl Netlist:
* 
* Library Name:  PROJLib
* Top Cell Name: HA_2_3
* View Name:     schematic
* Netlisted on:  Dec 30 02:58:29 2022
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: PROJLib
* Cell Name:    HA_2_3
* View Name:    schematic
************************************************************************

.SUBCKT HA_2_3 A B C GND INVC S VDD
*.PININFO A:I B:I C:O INVC:O S:O GND:B VDD:B
MNM6 S net113 GND GND n18 W=220n L=180n m=1
MNM0 INVC B net123 GND n18 W=440n L=180n m=1
MNM2 net113 INVC net111 GND n18 W=440n L=180n m=1
MNM4 net111 B GND GND n18 W=440n L=180n m=1
MNM3 net111 A GND GND n18 W=440n L=180n m=1
MNM1 net123 A GND GND n18 W=440n L=180n m=1
MNM5 C INVC GND GND n18 W=220n L=180n m=1
MPM6 S net113 VDD VDD p18 W=440n L=180n m=1
MPM3 net122 B VDD VDD p18 W=880n L=180n m=1
MPM1 INVC B VDD VDD p18 W=440n L=180n m=1
MPM0 INVC A VDD VDD p18 W=440n L=180n m=1
MPM2 net113 INVC VDD VDD p18 W=440n L=180n m=1
MPM4 net113 A net122 VDD p18 W=880n L=180n m=1
MPM5 C INVC VDD VDD p18 W=440n L=180n m=1
.ENDS

