************************************************************************
* auCdl Netlist:
* 
* Library Name:  PROJLib
* Top Cell Name: HA_SC
* View Name:     schematic
* Netlisted on:  Dec 30 02:45:33 2022
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: PROJLib
* Cell Name:    HA_SC
* View Name:    schematic
************************************************************************

.SUBCKT HA_SC A B COUT GND S VDD
*.PININFO A:I B:I COUT:O S:O GND:B VDD:B
MPM6 COUT net20 VDD VDD p18 W=440n L=180n m=1
MPM5 S net32 VDD VDD p18 W=440n L=180n m=1
MPM4 net32 A net51 VDD p18 W=880n L=180n m=1
MPM3 net51 B VDD VDD p18 W=880n L=180n m=1
MPM2 net32 net20 VDD VDD p18 W=440n L=180n m=1
MPM1 net20 B VDD VDD p18 W=440n L=180n m=1
MPM0 net20 A VDD VDD p18 W=440n L=180n m=1
MNM6 COUT net20 GND GND n18 W=220n L=180n m=1
MNM5 S net32 GND GND n18 W=220n L=180n m=1
MNM4 net30 B GND GND n18 W=440n L=180n m=1
MNM3 net30 A GND GND n18 W=440n L=180n m=1
MNM2 net32 net20 net30 GND n18 W=440n L=180n m=1
MNM1 net044 A GND GND n18 W=440n L=180n m=1
MNM0 net20 B net044 GND n18 W=440n L=180n m=1
.ENDS

