************************************************************************
* auCdl Netlist:
* 
* Library Name:  PROJLib
* Top Cell Name: MA
* View Name:     schematic
* Netlisted on:  Dec 29 22:58:53 2022
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: PROJLib
* Cell Name:    MA
* View Name:    schematic
************************************************************************

.SUBCKT MA A B C CIN GND S VDD
*.PININFO A:I B:I CIN:I C:O S:O GND:B VDD:B
MNM1 C net168 GND GND n18 W=440n L=180n m=1
MNM0 S net171 GND GND n18 W=440n L=180n m=1
MNM24 net171 CIN net197 GND n18 W=440n L=180n m=1
MNM23 net171 net168 net186 GND n18 W=440n L=180n m=1
MNM22 net168 A net201 GND n18 W=440n L=180n m=1
MNM21 net168 CIN net163 GND n18 W=440n L=180n m=1
MNM20 net197 A net198 GND n18 W=440n L=180n m=1
MNM19 net186 CIN GND GND n18 W=440n L=180n m=1
MNM18 net186 B GND GND n18 W=440n L=180n m=1
MNM17 net186 A GND GND n18 W=440n L=180n m=1
MNM16 net201 B GND GND n18 W=440n L=180n m=1
MNM15 net163 B GND GND n18 W=440n L=180n m=1
MNM14 net163 A GND GND n18 W=440n L=180n m=1
MNM13 net198 B GND GND n18 W=440n L=180n m=1
MPM25 net199 A VDD VDD p18 W=880n L=180n m=1
MPM24 net200 B net199 VDD p18 W=880n L=180n m=1
MPM23 net172 CIN VDD VDD p18 W=880n L=180n m=1
MPM22 net172 B VDD VDD p18 W=880n L=180n m=1
MPM21 net172 A VDD VDD p18 W=880n L=180n m=1
MPM20 net202 B VDD VDD p18 W=880n L=180n m=1
MPM19 net165 B VDD VDD p18 W=880n L=180n m=1
MPM18 net165 A VDD VDD p18 W=880n L=180n m=1
MPM16 net171 CIN net200 VDD p18 W=880n L=180n m=1
MPM15 net171 net168 net172 VDD p18 W=880n L=180n m=1
MPM14 net168 A net202 VDD p18 W=880n L=180n m=1
MPM12 net168 CIN net165 VDD p18 W=880n L=180n m=1
MPM1 C net168 VDD VDD p18 W=880n L=180n m=1
MPM0 S net171 VDD VDD p18 W=880n L=180n m=1
.ENDS

