************************************************************************
* auCdl Netlist:
* 
* Library Name:  PROJLib
* Top Cell Name: MUX2_SC
* View Name:     schematic
* Netlisted on:  Jan 14 19:16:51 2023
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: PROJLib
* Cell Name:    MUX2_SC
* View Name:    schematic
************************************************************************

.SUBCKT MUX2_SC GND I0 I1 OUT S VDD
*.PININFO I0:I I1:I S:I OUT:O GND:B VDD:B
MPM6 net026 I1 VDD VDD p18 W=440n L=180n m=1
MPM5 net014 I0 VDD VDD p18 W=440n L=180n m=1
MPM4 OUT net014 net18 VDD p18 W=880n L=180n m=1
MPM3 net18 S VDD VDD p18 W=880n L=180n m=1
MPM2 OUT net026 net19 VDD p18 W=880n L=180n m=1
MPM1 net19 net11 VDD VDD p18 W=880n L=180n m=1
MPM0 net11 S VDD VDD p18 W=440n L=180n m=1
MNM8 net026 I1 GND GND n18 W=220n L=180n m=1
MNM7 net014 I0 GND GND n18 W=220n L=180n m=1
MNM4 net11 S GND GND n18 W=220n L=180n m=1
MNM6 net15 net014 GND GND n18 W=440n L=180n m=1
MNM5 net15 S GND GND n18 W=440n L=180n m=1
MNM1 OUT net026 net15 GND n18 W=440n L=180n m=1
MNM0 OUT net11 net15 GND n18 W=440n L=180n m=1
.ENDS

